US04512997
A solution of 23 g of stannous chloride in 20 ml of concentrated hydrochloric acid was added all at once to a solution of 10 g of 3-ethyl-5-(4-methoxyphenyl)-4-(4-nitrophenyl)-4H-1,2,4-triazole in 50 ml of concentrated hydrochloric acid and the mixture was vigorously stirred for 2 hours and was filtered. The recovered product was washed with N hydrochloric acid and was added to aqueous 5N sodium hydroxide solution. The mixture was stirred for 2 hours and was filtered and the white crystals were washed and dried at 110° C. under reduced pressure. The 12.5 g of crystals were dissolved in boiling toluene and the mixture was filtered. The filtrate was iced for 16 hours and was vacuum filtered. The product was dried to obtain 3.8 g of 4-[3-ethyl-5-(4-methoxyphenyl)-4H-1,2,4-triazol-4-yl]-benzeneamine in the form of crystals melting at 216° C.

reactant | 3-ethyl-5-(4-methoxyphenyl)-4-(4-nitrophenyl)-4H-1,2,4-triazole | 10 g | C(C)C1=NN=C(N1C1=CC=C(C=C1)[N+](=O)[O-])C1=CC=C(C=C1)OC | C17H16N4O3
solvent | hydrochloric acid | 20 ml | Cl | ClH
solvent | hydrochloric acid | 50 ml | Cl | ClH
product | 4-[3-ethyl-5-(4-methoxyphenyl)-4H-1,2,4-triazol-4-yl]-benzeneamine | 3.8 g | C(C)C1=NN=C(N1C1=CC=C(C=C1)N)C1=CC=C(C=C1)OC | C17H18N4O
